US07947728B1
4-Bromomethyl-1-(tetrahydro-pyran-2-yl)-1H-indazole (0.5 g, 1.69 mmol), 3-(4′,5′-difluoro-2′-methoxy-biphenyl-4-ol (0.4 g, 1.69 mmol) and potassium carbonate (0.23 g, 1.69 mmol) in 15 mL THF/3 mL DMF was heated to 70° C. overnight. The reaction was cooled and distributed between EtOAc and H2O. The organic layer was separated and concentrated in vacuo. The crude product was purified by flash chromatography with a gradient from 0-25% ethyl acetate in hexanes to yield 4-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-1-(tetrahydro-pyran-2-yl)-1H-indazole as a white solid (400 mg, 52.5%). HR-MS (ES) calculated for C26H24F2N2O3, 473.1646; found m/z 473.1647 [M+Na]+.

reactant | 4-Bromomethyl-1-(tetrahydro-pyran-2-yl)-1H-indazole | 1.69 mmol, 0.5 g | BrCC1=C2C=NN(C2=CC=C1)C1OCCCC1 | C13H15BrN2O
reactant | 4′,5′-difluoro-2′-methoxy-biphenyl-4-ol | 1.69 mmol, 0.4 g | FC1=CC(=C(C=C1F)C1=CC=C(C=C1)O)OC | C13H10F2O2
reactant | potassium carbonate | 1.69 mmol, 0.23 g | C([O-])([O-])=O.[K+].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | 4-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-1-(tetrahydro-pyran-2-yl)-1H-indazole | 400 mg, 52.5% | FC1=CC(=C(C=C1F)C1=CC=C(C=C1)OCC1=C2C=NN(C2=CC=C1)C1OCCCC1)OC | C26H24F2N2O3
